US04357352
To a solution of 8-cyanotetracyclo[4,3,0,02,4,03,7 ]nonane (87 g.) in carbon tetrachloride (600 ml.) was added phosphorus pentachloride (168 g.). The mixture was heated under reflux for 60 hours, cooled and poured into a mixture of crushed ice and water (1 l.). The mixture was stirred for 30 minutes and the organic layer separated. This was washed with a 10% w/v aqueous solution of sodium carbonate (200 ml.), saturated brine (100 ml.) and then dried over anhydrous potassium carbonate. The filtrate was then evaporated in vacuo to remove solvent and then distilled in vacuo to give 8-cyano-8-chlorotetracyclo[4,3,0,02,4,03,7 ]nonane, b.p. 136°-140° C./20 mm., in 83% yield.

reactant | 8-cyanotetracyclo[4,3,0,02,4,03,7 ]nonane | 87 g | C(#N)C1C2C3CC4C2C4C3C1 | C10H11N
reactant | phosphorus pentachloride | 168 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | water | 1 l | O | H2O
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-cyano-8-chlorotetracyclo[4,3,0,02,4,03,7 ]nonane | 83% yield | C(#N)C1(C2C3CC4C2C4C3C1)Cl | C10H10ClN
